US04801598
5-(N-t-Butylcarbamoyl)-4-(2-chlorophenyl)-3-isopropoxycarbonyl-6-methyl-2-[3-(1-methylbenzimidazol-2-yl)-propoxymethyl]-1,4-dihydropyridine
The procedure of Example 21(c) was followed using isopropyl 4-[3-(1-methylbenzimidazol-2-yl)propoxy]-3-ketobutanoate, 2-chlorobenzaldehyde and N-t-butyl-3-aminocrotonamide as starting materials to yield the title compound as a white solid m.p. 216° C. Found: C, 66.62; H, 6.78; N, 9.35. C33H41ClN4O4 requires C, 66.82; H, 6.97; N, 9.45%.

reactant | isopropyl 4-[3-(1-methylbenzimidazol-2-yl)propoxy]-3-ketobutanoate | CN1C(=NC2=C1C=CC=C2)CCCOCC(CC(=O)OC(C)C)=O | C18H24N2O4
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | N-t-butyl-3-aminocrotonamide | C(C)(C)(C)NC(\C=C(\C)/N)=O | C8H16N2O
product | 5-(N-t-Butylcarbamoyl)-4-(2-chlorophenyl)-3-isopropoxycarbonyl-6-methyl-2-[3-(1-methylbenzimidazol-2-yl)-propoxymethyl]-1,4-dihydropyridine | C(C)(C)(C)NC(=O)C=1C(C(=C(NC1C)COCCCC1=NC2=C(N1C)C=CC=C2)C(=O)OC(C)C)C2=C(C=CC=C2)Cl | C33H41ClN4O4
